US06608062B1
c) 3-Cyclopentyl-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazin-2-ol
To a solution of 5-amino-3-methyl-6-phenyl-[1,2,4]triazine (0.2 g, 1.07 mmol) in dichloromethane (20 ml) was added pyridine (0.104 ml, 1.28 mmol) followed by dropwise addition of 2-bromo-2-cyclopentylacetyl chloride (0.266 ml, 1.18 mmol; prepared from cyclopentylacetyl chloride by the method of Gleason, Tetrahedron Lett., 1970, 39, 3431). The reaction mixture was stirred for 18 h after which time the dichloromethane was evaporated in vacuo. The residue was dissolved in t-butanol (20 ml) to which was added triethylamine (1 ml) and sodium iodide (0.010 g) and the resultant mixture was heated at 120° C. for 18 h. The n-butanol was evaporated in vacuo and the residue was purified by flash chromatography (SiO2; 60% EtOAc in hexanes) to afford the title compound (0.178 g). δH (400 MHz; d6-DMSO) 1.40-2.20 (8H, m), 2.71 (3H, s), 3.65 (1H, m), 7.49 (3H, m), 8.05 (2H, m). m/z (ES+) 295 (M+1).

reactant | 5-amino-3-methyl-6-phenyl-[1,2,4]triazine | 1.07 mmol, 0.2 g | NC=1N=C(N=NC1C1=CC=CC=C1)C | C10H10N4
reactant | pyridine | 1.28 mmol, 0.104 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-bromo-2-cyclopentylacetyl chloride | BrC(C(=O)Cl)C1CCCC1 | C7H10BrClO
reactant | cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-Cyclopentyl-5-methyl-8-phenylimidazo[1,2-d][1,2,4]triazin-2-ol | 0.178 g | C1(CCCC1)C1=C(N=C2N1C(=NN=C2C2=CC=CC=C2)C)O | C17H18N4O
